US07888345B2
Step 1: Preparation of (2S,5R)-2-isopropyl-3,6-dimethoxy-5-(2-trifluoromethoxy-benzyl)-2,5-dihydro-pyrazine
A solution of (2S)-(+)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine (7.2 g, 39.4 mmol) in tetrahydrofuran (50 mL) was cooled to −78° C. A solution of n-butyllithium in hexanes (2.5 M, 18.9 mL, 47.2 mmol) was added dropwise, and stirring was continued for 15 minutes. 2-Trifluoromethoxybenzyl bromide (10.0 g, 39.4 mmol) was added, and the resulting mixture was maintained at −78° C. for 30 minutes, then allowed to slowly warm to room temperature. The reaction was then diluted with saturated aqueous NH4Cl solution and extracted with ethyl acetate. The organic extracts were combined, dried over MgSO4, filtered and concentrated in vacuo to give an oil that was purified via flash chromatography on silica gel (100% hexanes) to give the desired product.

reactant | (2S)-(+)-2,5-dihydro-3,6-dimethoxy-2-isopropylpyrazine | 39.4 mmol, 7.2 g | COC=1[C@@H](N=C(CN1)OC)C(C)C | C9H16N2O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-Trifluoromethoxybenzyl bromide | 39.4 mmol, 10.0 g | FC(OC1=C(CBr)C=CC=C1)(F)F | C8H6BrF3O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | (2S,5R)-2-isopropyl-3,6-dimethoxy-5-(2-trifluoromethoxy-benzyl)-2,5-dihydro-pyrazine | C(C)(C)[C@@H]1N=C([C@H](N=C1OC)CC1=C(C=CC=C1)OC(F)(F)F)OC | C17H21F3N2O3
